*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-02 19:01:43
*********************************************************

.SUBCKT pam4drv_pam4_lay sub msbn lsbp vcmb lsbn msbp tmsb0 tmsb1 tlsb0 vcasc
+ outp outn vcc
Q$1 \$49 msbp \$10 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$2 \$50 msbn \$11 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$3 \$51 msbp \$12 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$4 \$52 msbn \$13 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$5 \$53 lsbp \$14 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$6 \$54 lsbn \$15 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$7 outp vcasc \$49 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$8 outn vcasc \$50 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$9 outp vcasc \$51 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$10 outn vcasc \$52 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$11 outp vcasc \$53 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
Q$12 outn vcasc \$54 sub npn13G2 we=0.07 le=0.9 Nx=3 m=1
R$13 vcmb lsbp sub 0.64 rsil l=3.1 ps=0 b=0 m=1
R$14 vcmb lsbn sub 0.64 rsil l=3.1 ps=0 b=0 m=1
R$15 vcmb msbp sub 0.64 rsil l=3.1 ps=0 b=0 m=1
R$16 vcmb msbn sub 0.64 rsil l=3.1 ps=0 b=0 m=1
R$17 tmsb0 \$10 sub 5.56 rsil l=1.29 ps=0 b=0 m=1
R$18 tmsb0 \$11 sub 5.56 rsil l=1.29 ps=0 b=0 m=1
R$19 tmsb1 \$12 sub 5.56 rsil l=1.29 ps=0 b=0 m=1
R$20 tmsb1 \$13 sub 5.56 rsil l=1.29 ps=0 b=0 m=1
R$21 tlsb0 \$14 sub 5.56 rsil l=1.29 ps=0 b=0 m=1
R$22 tlsb0 \$15 sub 5.56 rsil l=1.29 ps=0 b=0 m=1
R$23 outp vcc sub 1.52 rsil l=10.02 ps=0 b=0 m=1
R$24 outn vcc sub 1.52 rsil l=10.02 ps=0 b=0 m=1
Cext_1 \$10 \$11 495.76a
Cext_2 \$10 \$49 1.34032f
Cext_3 \$10 \$50 24.134a
Cext_4 \$10 msbn 3.22087a
Cext_5 \$10 msbp 739.496a
Cext_6 \$10 sub 11.2617a
Cext_7 \$10 tmsb0 253.465a
Cext_8 \$10 vcasc 13.3269a
Cext_9 \$10 VSUBS 3.12182f
Cext_10 \$11 \$49 0.628703a
Cext_11 \$11 \$50 1.32759f
Cext_12 \$11 msbn 732.097a
Cext_13 \$11 msbp 11.477a
Cext_14 \$11 sub 4.68592a
Cext_15 \$11 tmsb0 239.813a
Cext_16 \$11 vcasc 5.87054a
Cext_17 \$11 VSUBS 2.84601f
Cext_18 \$12 \$13 495.76a
Cext_19 \$12 \$51 1.34032f
Cext_20 \$12 \$52 24.134a
Cext_21 \$12 msbn 3.22087a
Cext_22 \$12 msbp 739.291a
Cext_23 \$12 sub 4.68592a
Cext_24 \$12 tmsb1 253.465a
Cext_25 \$12 vcasc 13.3269a
Cext_26 \$12 VSUBS 3.12408f
Cext_27 \$13 \$51 0.628703a
Cext_28 \$13 \$52 1.32759f
Cext_29 \$13 msbn 732.097a
Cext_30 \$13 msbp 0.679754a
Cext_31 \$13 sub 4.68592a
Cext_32 \$13 tmsb1 239.813a
Cext_33 \$13 vcasc 5.87054a
Cext_34 \$13 VSUBS 2.84601f
Cext_35 \$14 \$15 495.76a
Cext_36 \$14 \$53 1.34032f
Cext_37 \$14 \$54 24.134a
Cext_38 \$14 lsbn 3.22087a
Cext_39 \$14 lsbp 728.381a
Cext_40 \$14 sub 4.68592a
Cext_41 \$14 tlsb0 253.465a
Cext_42 \$14 vcasc 13.3269a
Cext_43 \$14 VSUBS 3.12545f
Cext_44 \$15 \$53 0.628703a
Cext_45 \$15 \$54 1.32759f
Cext_46 \$15 lsbn 732.097a
Cext_47 \$15 lsbp 0.679754a
Cext_48 \$15 sub 8.71644a
Cext_49 \$15 tlsb0 239.813a
Cext_50 \$15 vcasc 5.87054a
Cext_51 \$15 VSUBS 2.84547f
Cext_52 \$49 msbp 50.8262a
Cext_53 \$49 outp 733.343a
Cext_54 \$49 sub 19.9701a
Cext_55 \$49 vcasc 750.479a
Cext_56 \$49 VSUBS 2.25299f
Cext_57 \$50 msbn 50.8262a
Cext_58 \$50 outn 668.615a
Cext_59 \$50 outp 64.565a
Cext_60 \$50 sub 27.2059a
Cext_61 \$50 vcasc 761.314a
Cext_62 \$50 VSUBS 2.24437f
Cext_63 \$51 msbp 50.8262a
Cext_64 \$51 outp 748.424a
Cext_65 \$51 sub 27.2059a
Cext_66 \$51 vcasc 761.314a
Cext_67 \$51 VSUBS 2.24437f
Cext_68 \$52 msbn 50.8262a
Cext_69 \$52 outn 668.615a
Cext_70 \$52 outp 64.565a
Cext_71 \$52 sub 27.2059a
Cext_72 \$52 vcasc 761.314a
Cext_73 \$52 VSUBS 2.24437f
Cext_74 \$53 lsbp 50.8262a
Cext_75 \$53 outp 733.343a
Cext_76 \$53 sub 27.2059a
Cext_77 \$53 vcasc 761.314a
Cext_78 \$53 VSUBS 2.24437f
Cext_79 \$54 lsbn 50.8262a
Cext_80 \$54 outn 668.615a
Cext_81 \$54 sub 15.6156a
Cext_82 \$54 vcasc 743.892a
Cext_83 \$54 VSUBS 2.25999f
Cext_84 lsbn lsbp 409.758a
Cext_85 lsbn msbn 31.1357a
Cext_86 lsbn msbp 67.1792a
Cext_87 lsbn sub 27.5448a
Cext_88 lsbn tlsb0 77.3695a
Cext_89 lsbn vcmb 117.893a
Cext_90 lsbp msbn 394.262a
Cext_91 lsbp msbp 56.8508a
Cext_92 lsbp tlsb0 77.3695a
Cext_93 lsbp vcmb 8.69481a
Cext_94 msbn msbp 664.85a
Cext_95 msbn tmsb0 77.5287a
Cext_96 msbn tmsb1 119.98a
Cext_97 msbn vcmb 8.69481a
Cext_98 msbp sub 22.9984a
Cext_99 msbp tmsb0 261.456a
Cext_100 msbp tmsb1 207.353a
Cext_101 msbp vcmb 8.69481a
Cext_102 outn outp 1.70285f
Cext_103 outn sub 138.643a
Cext_104 outn vcasc 152.2a
Cext_105 outn vcc 1.91415a
Cext_106 outp sub 179.623a
Cext_107 outp vcasc 233.845a
Cext_108 outp vcc 1.91415a
Cext_109 sub tlsb0 9.2577a
Cext_110 sub tmsb0 10.5322a
Cext_111 sub vcasc 372.647a
Cext_112 sub vcc 135.504a
Cext_113 sub vcmb 886.387a
Cext_114 VSUBS lsbn 5.22336f
Cext_115 VSUBS lsbp 3.89777f
Cext_116 VSUBS msbn 5.96944f
Cext_117 VSUBS msbp 6.46919f
Cext_118 VSUBS outn 11.8901f
Cext_119 VSUBS outp 11.0602f
Cext_120 VSUBS sub 45.4296f
Cext_121 VSUBS tlsb0 4.04723f
Cext_122 VSUBS tmsb0 4.04556f
Cext_123 VSUBS tmsb1 4.03452f
Cext_124 VSUBS vcasc 7.01373f
Cext_125 VSUBS vcc 3.85538f
Cext_126 VSUBS vcmb 9.59202f
.ENDS pam4drv_pam4_lay
